US04861887
Preparation of 2-{[(1-carbamoyl-1,2-dimethylpropyl)amino]methyl}-5-ethylnicotinic acid
A solution of 5.6 g of ethyl 2-{[(1-carbamoyl-1,2-dimethylpropyl)amino]methyl}-5-ethylnicotinate (0.0174 mol) in 30 mL of methanol containing 2 g of NaOH (0.05 mol) and 10 mL water is stirred at room temperature for two hours and 30 minutes. The reaction is concentrated in vacuo and redissolved in 30 mL water; adjustment of the pH to 4 with concentrated hydrochloric acid and concentration in vacuo gives a gum. This residue is dissolved in a mixture of ethyl acetate, tetrahydrofuran, and methanol, dried over MgSO4, and concentrated in vacuo to 6 g foam. Crystallization from methanol-ether affords 3.1 g product, mp 180°-181° C.

reactant | ethyl 2-{[(1-carbamoyl-1,2-dimethylpropyl)amino]methyl}-5-ethylnicotinate | 0.0174 mol, 5.6 g | C(N)(=O)C(C(C)C)(C)NCC1=C(C(=O)OCC)C=C(C=N1)CC | C17H27N3O3
reactant | NaOH | 0.05 mol | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | methanol | 30 mL, 2 g | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-{[(1-carbamoyl-1,2-dimethylpropyl)amino]methyl}-5-ethylnicotinic acid | 3.1 g | C(N)(=O)C(C(C)C)(C)NCC1=C(C(=O)O)C=C(C=N1)CC | C15H23N3O3
